US06156767
Pyridin-3-yl-acetaldehyde
To a solution of N-methoxy-N-methyl-2-pyridin-3-yl-acetamide (279 mg in 5 mL dry tetrahydrofuran) at -30° C. was added 3.1 mL of a 1M diisobutylaluminum hydride solution in tetrahydrofuran and the mixture stirred at low temperature. After 30 minutes, the reaction was quenched by the careful addition of saturated aqueous sodium potassium tartarate. The resulting mixture was allowed to stir while warming to room temperature at which time the mixture was diluted with ethyl acetate and filtered through a pad of sodium sulfate. Purification of the concentrate by flash chromatography on silica gel (methylene chloride:methanol, 94:6) gave the title compound (120 mg).

reactant | N-methoxy-N-methyl-2-pyridin-3-yl-acetamide | 5 mL, 279 mg | CON(C(CC=1C=NC=CC1)=O)C | C9H12N2O2
reactant | diisobutylaluminum hydride | 1M | [H-].C(C(C)C)[Al+]CC(C)C
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Pyridin-3-yl-acetaldehyde | 120 mg | N1=CC(=CC=C1)CC=O | C7H7NO
